US08053438B2
The mixture of (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (0.16 g, 0.67 mmol), 1-(4-(3-fluoropyrazin-2-yl)piperidin-1-yl)ethanone (0.1 g, 0.45 mmol), and cesium carbonate (0.22 g, 0.67 mmol) in DMSO (1.5 mL) was heated at 80° C. for 20 h. After cooling to RT, the reaction mixture was partitioned between Teac and brine. The aqueous layer was back extracted with Teac (2×) and the combined organic layer was dried (Na2SO4) and concentrated. The crude material was purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 100% Teac in hexane, then 5% MeOH in Teac, to provide 1-(4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidin-1-yl)ethanone as off-white solid. MS (ESI, pos. ion) m/z: 442.1 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 0.67 mmol, 0.16 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | 1-(4-(3-fluoropyrazin-2-yl)piperidin-1-yl)ethanone | 0.45 mmol, 0.1 g | FC=1C(=NC=CN1)C1CCN(CC1)C(C)=O | C11H14FN3O
reactant | cesium carbonate | 0.67 mmol, 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 1-(4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidin-1-yl)ethanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C1CCN(CC1)C(C)=O)C=C2 | C25H23N5O3
